US04229438
Production of pGlu-(D)-Ala-Lys-Ser-Gln-Gly-Gly-Ser-Asn-OH
In 2 ml of trifluoroacetic acid is dissolved 240 mg of pGlu-(D)-Ala-Lys(Boc)-Ser-Gln-Gly-Gly-Ser-Asn-OBut and the solution is allowed to stand at room temperature for 60 minutes. The trifluoroacetic acid is distilled off and the residue is precipitated with ether and recovered by filtration. The powders thus obtained are dissolved in 30 ml of water and the solution is passed through a column of Amberlite IRA-410 (acetate-form)(2×4 cm). The effluent is combined with washings and lyophilized. The powdery lyophilizate is dissolved in a small amount of 0.1 N-aqueous acetic acid and put onto a column of Sephadex LH-20 (2.5×125 cm), elution being carried out with 0.1 N-aqueous acetic acid. The fractions from 195 ml through 240 ml are pooled and lyophilized, whereupon 150 mg powders of the indicated compound are obtained. Yield 68%; [α]D25 -16.6°(c=0.5, 50% acetic acid); Rf4 (Avicel)=0.20; amino acid analysis (as hydrolyzed with HCl): Lys, 1.18(1); Asp, 1.00(1); Ser, 1.67(2); Glu, 2.03(2); Gly, 2.09(2); Ala, 0.86(1); average recovery 79%.

reactant | pGlu-(D)-Ala-Lys(Boc)-Ser-Gln-Gly-Gly-Ser-Asn-OBut | 240 mg | N1[C@@H](CCC1=O)C(=O)N[C@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C42H70N12O17
reactant | acetate | C(C)(=O)[O-]
reactant | HCl | Cl | ClH
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 30 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | pGlu-(D)-Ala-Lys-Ser-Gln-Gly-Gly-Ser-Asn-OH | Yield 68% | N1[C@@H](CCC1=O)C(=O)N[C@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C33H54N12O15
